US04366155
A solution of 21.4 grams of mucobromic acid and 13.3 grams of 3-trifluoromethylphenyl hydrazine in 60 milliliters of ethanol was stirred for about 10 minutes. The ethanol was removed by evaporation under reduced pressure, and then 40 milliliters each of glacial acetic acid and acetic anhydride were added to the reaction vessel. The acidic reaction mixture was heated at reflux for 4 hours. The reaction solvent was removed by evaporation under reduced pressure whereupon a solid precipitate formed. The solid was purified by recrystallization from ethanol. A yield of 20.7 grams of 1-(3-trifluoromethylphenyl)-4,5-dibromo-1,6-dihydro-6-oxopyridazine was obtained.

reactant | mucobromic acid | 21.4 grams | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
reactant | 3-trifluoromethylphenyl hydrazine | 13.3 grams | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
solvent | ethanol | 60 milliliters | C(C)O | C2H6O
product | 1-(3-trifluoromethylphenyl)-4,5-dibromo-1,6-dihydro-6-oxopyridazine | yield of 20.7 grams | FC(C=1C=C(C=CC1)N1N=CC(=C(C1=O)Br)Br)(F)F | C11H5Br2F3N2O
